US04012513
A solution of methyl 1-acetyl-2-methylindolin-3-ylacetate (6.83 g.) in concentrated sulphuric acid (45 ml.) was cooled to 0° C. and a solution of sodium nitrate (2.67 g.) in concentrated sulphuric acid (20 ml.) was added dropwise during 0.5 hr. The mixture was stirred at 0° C. for a further 0.5 hr. and then poured onto ice (300 ml.). The resulting precipitate was filtered and washed well with water. Crystallisation from methanol gave methyl 1-acetyl-2-methyl-5-nitroindolin-3-ylacetate, m.p. 106° C.

reactant | methyl 1-acetyl-2-methylindolin-3-ylacetate | 6.83 g | C(C)(=O)N1C(C(C2=CC=CC=C12)CC(=O)OC)C | C14H17NO3
reactant | sodium nitrate | 2.67 g | [N+](=O)([O-])[O-].[Na+]
solvent | sulphuric acid | 45 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | methyl 1-acetyl-2-methyl-5-nitroindolin-3-ylacetate | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])CC(=O)OC)C | C14H16N2O5
